US07816522B2
(21d) (8-methoxy-4H-benzo[1,3]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile
To a solution of 3.5 g of Yb(OTf)3 in 250 ml of THF there were added 9.8 g of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 10.8 g of 8-methoxy-4H-benzo[1,3]dioxine-6-carbaldehyde, 10 g of MS3A and 15 ml of trimethylsilyl cyanide under a nitrogen atmosphere, and the mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the celite was washed with 1000 ml of ethyl acetate. The organic layer was concentrated under reduced pressure to give the title compound (29.2 g, crude product) as a light yellow solid.

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 9.8 g | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 8-methoxy-4H-benzo[1,3]dioxine-6-carbaldehyde | 10.8 g | COC1=CC(=CC=2COCOC21)C=O | C10H10O4
reactant | trimethylsilyl cyanide | 15 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | THF | 250 ml | C1CCOC1 | C4H8O
catalyst | Yb(OTf)3 | 3.5 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
product | (8-methoxy-4H-benzo[1,3]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 29.2 g | COC1=CC(=CC=2COCOC21)C(C#N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H18N4O4
